US04518597
6-[6-(3,4-Dimethoxy-phenylsulfinyl)-hexyloxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 6-[6-(3,4-dimethoxy-phenylmercapto)-hexyloxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 6-[6-(3,4-dimethoxy-phenylmercapto)-hexyloxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | COC=1C=C(C=CC1OC)SCCCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C24H31NO5S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[6-(3,4-Dimethoxy-phenylsulfinyl)-hexyloxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | COC=1C=C(C=CC1OC)S(=O)CCCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C24H31NO6S
